US08957068B2
To a cooled (0° C.) solution of (S)-methyl 4-(1-(tert-butoxycarbonylamino)ethyl)benzoate (6.35 g, 22.7 mmol) in THF (114 mL) was added a solution of LAH in THF (2.0 M, 13.64 mL, 27.3 mmol) and the resulting mixture was stirred at room temperature for 40 min. The reaction mixture was quenched by addition of a 1N NaOH solution until gas evolution ceased. The reaction mixture was filtered, washed with EtOAc. After separation, the aqueous phase was washed with EtOAc (2×150 mL). Combined organics were dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (EtOAc/heptane 0 to 100%) provided (S)-tert-butyl 1-(4-(hydroxymethyl)phenyl)ethylcarbamate as a white solid (5.01 g, 84% yield).

reactant | (S)-methyl 4-(1-(tert-butoxycarbonylamino)ethyl)benzoate | 22.7 mmol, 6.35 g | C(C)(C)(C)OC(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C15H21NO4
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | THF | 114 mL | C1CCOC1 | C4H8O
solvent | THF | 27.3 mmol, 2.0 M, 13.64 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 1-(4-(hydroxymethyl)phenyl)ethylcarbamate | 5.01 g, 84% yield | OCC1=CC=C(C=C1)[C@H](C)NC(OC(C)(C)C)=O | C14H21NO3
